US05856309
A mixture of 3.1 g piperidine-4-carboxylic acid ethyl ester, 6.4 ml epichlorohydrin and 0.1 g tetrabutyl-ammonium bromide in 15 ml toluene and 15 ml concentrated sodium hydroxide solution was stirred for 4 h at room temperature and subsequently admixed with 50 ml water. The organic phase was separated, the aqueous phase was shaken three times with 20 ml methylene chloride each time, the combined organic phases were dried over sodium sulfate and the solvent was removed in a vacuum. 2.1 g (rac)-1-oxiran-2-ylmethyl-piperidine-4-carboxylic acid ethyl ester was obtained. EI-MS: m/z 213 M+.

reactant | piperidine-4-carboxylic acid ethyl ester | 3.1 g | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | epichlorohydrin | 6.4 ml | C(Cl)C1CO1 | C3H5ClO
reactant | water | 50 ml | O | H2O
catalyst | tetrabutyl-ammonium bromide | 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium hydroxide | 15 ml | [OH-].[Na+]
product | (rac)-1-oxiran-2-ylmethyl-piperidine-4-carboxylic acid ethyl ester | 2.1 g | C(C)OC(=O)C1CCN(CC1)CC1OC1 | C11H19NO3
